US07371750B2
To a stirred solution of N-[4-Methyl-3-(1-methyl-7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide (184 mg, 0.37 mmol) in the mixed solvent of DMF (4 mL) and chloroform (4 mL) is added m-chloroperoxybenzoic acid (77% max., 97 mg, 44 mmol) and the mixture is stirred for 1 h at room temperature. The mixture is diluted with chloroform, and washed with 5% aqueous Na2S2O3 solution and saturated NaHCO3 solution. The organic layer is dried over MgSO4 and concentrated under reduced pressure to give N-[3-(7-Methanesulfinyl-1-methyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide (167 mg, 88%).

reactant | N-[4-Methyl-3-(1-methyl-7-methylsulfanyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-3-trifluoromethyl-benzamide | 0.37 mmol, 184 mg | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)N1C(N(C2=NC(=NC=C2C1=O)SC)C)=O | C23H18F3N5O3S
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | m-chloroperoxybenzoic acid | 44 mmol, 97 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(7-Methanesulfinyl-1-methyl-2,4-dioxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-4-methyl-phenyl]-3-trifluoromethyl-benzamide | 167 mg, 88% | CS(=O)C1=NC=C2C(=N1)N(C(N(C2=O)C=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C | C23H18F3N5O4S
